US07741479B2
A mixture of 4-(2-tert-butyl-4-nitrothiophene-5-carbonyl)-1-(2-(dimethylamino)ethyl)-3,3-dimethylpiperazin-2-one (0.200 g, 0.49 mmol) and tin chloride dihydrate (0.55 g, 2.4 mmol) dissolved in 4 mL MeOH was stirred at 70° C. overnight. The reaction mixture was cooled down to room temperature, quenched with saturated NaHCO3 (40 mL), and extracted with ethyl acetate. The combined organic layers was dried, the solvent eliminated under vacuum and the residue purified by chromatographic column (silica gel, dichloromethane) to afford 0.090 g of 4-(4-amino-2-tert-butylthiophene-5-carbonyl)-1-(2-(dimethylamino)ethyl)-3,3-dimethylpiperazin-2-one as a tan solid.

reactant | 4-(2-tert-butyl-4-nitrothiophene-5-carbonyl)-1-(2-(dimethylamino)ethyl)-3,3-dimethylpiperazin-2-one | 0.49 mmol, 0.200 g | C(C)(C)(C)C=1SC(=C(C1)[N+](=O)[O-])C(=O)N1C(C(N(CC1)CCN(C)C)=O)(C)C | C19H30N4O4S
reactant | tin chloride dihydrate | 2.4 mmol, 0.55 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
solvent | MeOH | 4 mL | CO | CH4O
product | 4-(4-amino-2-tert-butylthiophene-5-carbonyl)-1-(2-(dimethylamino)ethyl)-3,3-dimethylpiperazin-2-one | 0.090 g | NC=1C=C(SC1C(=O)N1C(C(N(CC1)CCN(C)C)=O)(C)C)C(C)(C)C | C19H32N4O2S
